US04738970
0.2 Gram of 6-amino-2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine was dissolved in a mixture consisting of 3 ml of water and 0.1 ml of concentrated sulfuric acid. This mixture was stirred at 0° C., and 59 mg of sodium nitrite was added, then the mixture was further stirred at the same temperature for 1 hour. The reaction solution was neutralized by adding 4N-sodium hydroxide aqueous solution, and the crystals formed were collected by filtration. Recrystallized from ethanol to obtain 0.2 g of 6-hydroxy-2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine in the form of yellow powdery crystals. Melting point: 178°-179.5° C.

reactant | 6-amino-2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine | NC=1C=C2C(=NC1)N=C(N2)SCC2=NC=C(C(=C2C)OC)C | C15H17N5OS
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 59 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 6-hydroxy-2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine | 0.2 g | OC=1C=C2C(=NC1)N=C(N2)SCC2=NC=C(C(=C2C)OC)C | C15H16N4O2S
